US08703768B2
Step 2: 5-(2Hydroxy-2-methylpropoxy)-2-nitrobenzoic acid
To a solution of 2-hydroxy-2-methylpropyl 5-(2-hydroxy-2-methylpropoxy)-2-nitrobenzoate (0.24 g, 733 μmol) in MeOH (10 ml) at r.t was added NaOH 1 N (2.2 ml, 2.2 mmol). The solution was stirred at r.t overnight. 2.2 ml 1 N HCl were added. The solvents were evaporated. The residue was dissolved in methylenechloride/MeOH 9:1 (100 ml), washed with 10 ml H2O, dried over MgSO4, filtered and evaporated to give the title compound (149 mg, 80%) as off-white solid.

reactant | 2-hydroxy-2-methylpropyl 5-(2-hydroxy-2-methylpropoxy)-2-nitrobenzoate | 733 μmol, 0.24 g | OC(COC=1C=CC(=C(C(=O)OCC(C)(C)O)C1)[N+](=O)[O-])(C)C | C15H21NO7
reactant | NaOH | 2.2 mmol, 1 N, 2.2 ml | [OH-].[Na+]
reactant | HCl | 1 N, 2.2 ml | Cl | ClH
solvent | MeOH | 10 ml | CO | CH4O
product | 5-(2Hydroxy-2-methylpropoxy)-2-nitrobenzoic acid | 149 mg, 80% | OC(COC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-])(C)C | C11H13NO6
